US09108939B2
B: N-(4-(1-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-1-hydroxyethyl)phenyl)acetamide
N-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidine-4-carbonyl)phenyl)acetamide (1.702 mmol, 855 mg) was dissolved in anhydrous tetrahydrofuran (20 mL) under nitrogen and cooled to −78° C. 3M Methylmagnesium bromide in diethyl ether (3.40 mmol, 1.134 mL) was added and the mixture stirred at −78° C. for 30 minutes before allowing to warm to room temperature and stirring for a further 4 hours. After this time, further 3M methylmagnesium bromide in diethyl ether (3.40 mmol, 1.134 mL) was added and the mixture stirred for 2 hours. The mixture was cooled to 0° C. and quenched with a saturated solution of ammonium chloride (30 mL). The mixture was extracted with ethyl acetate (100 mL) and washed with water (30 mL) then brine (30 mL). The organics were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting with dichloromethane to 15% methanol/dichloromethane) to afford the title compound (300 mg). MS (ESI) m/z 519.2 [M+H]+

reactant | N-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidine-4-carbonyl)phenyl)acetamide | 1.702 mmol, 855 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)C(=O)C2=CC=C(C=C2)NC(C)=O)C=C1)(F)F | C24H24F6N2O3
reactant | Methylmagnesium bromide | 3M | C[Mg]Br
reactant | diethyl ether | 3.40 mmol, 1.134 mL | C(C)OCC | C4H10O
reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | diethyl ether | 3.40 mmol, 1.134 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(4-(1-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-1-hydroxyethyl)phenyl)acetamide | 300 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)C(C)(O)C2=CC=C(C=C2)NC(C)=O)C=C1)(F)F | C25H28F6N2O3
